US05328923
A. 3-(3-Hexyloxy-1,2,5-thiadiazol-4-yl)-6-methylpyridine
Sodium hydride (0.72 g, 15 mmol) was dissolved in dry THF (20 ml) and 1-hexanol (1.53 g, 15 mmol) and a solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)-6-methylpyridine (1.06 g, 5 mmol) in dry THF (15 ml) was added. The reaction mixture was stirred for 2 h. After addition of water the mixture was extracted with ether, and the ether phase was dried and evaporated. The residue consisted of the crude title compound, which was used without further purification.

reactant | Sodium hydride | 15 mmol, 0.72 g | [H-].[Na+]
reactant | 1-hexanol | 15 mmol, 1.53 g | C(CCCCC)O | C6H14O
reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-6-methylpyridine | 5 mmol, 1.06 g | ClC1=NSN=C1C=1C=NC(=CC1)C | C8H6ClN3S
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(3-Hexyloxy-1,2,5-thiadiazol-4-yl)-6-methylpyridine | C(CCCCC)OC1=NSN=C1C=1C=NC(=CC1)C | C14H19N3OS
